Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Gum bleeding
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old woman
with a PMH notable for ITP who presented with gum bleeding. 

She states that on ___, she began to notice bruising on her
extremities, with out associated trauma. The morning of
presentation, she noticed unprovoked bleeding from her gums. She
states this is similar to prior flair ups of ITP, which occur
about once a year. She otherwise endorsed lightheadedness &
dizziness but denied chest pain, fever, chills, HA, vision
changes, SOB. 

She presented to her PCP, where her platelet count was found to
be 2. She was referred to ___. 

In the ED, initial vitals were: T 98.5, HR 78, BP 105/55, R 18,
SpO2 99% 
- Labs were notable for: WBC 6, Hb 13.4 (MCV 80), platelets <5,
negative uHCG, BUN 25/Cr 0.8, normal LFTs, INR 1.2 
- Urinalysis with trace ___, negative nitrites, few bacteria, 7
WBC with 3 epithelials 
- 40 mg dexamethasone & 40 mg omeprazole were given. 

REVIEW of SYSTEMS: a complete 10 point review of systems was
performed & negative, unless noted above. 
 
Past Medical History:
- ITP 
- History of gastric sleeve, ___, in ___ 
- Vitamin D deficiency
 
Social History:
___
Family History:
brother - asthma, mother - asthma, carpal tunnel
syndrome

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================

VITALS - ___ 0104 Temp: 98 PO BP: 104/69 HR: 62 RR: 18 O2
sat: 97% O2 delivery: RA 
GENERAL - well-appearing, laying in bed, in no distress
EYES - anicteric, PERRL 
ENT - moist membranes, scattered small areas of gingival
hemorrhage without active bleeding 
CARDIOVASC - regular, normal S1/S2, no murmur
RESPIRATORY - lungs clear bilaterally 
GI - soft, non-tender, non-distended
MUSCULOSKEL - warm extremities, no peripheral edema 
NEURO - face symmetric, tongue midline, speech fluent, oriented
x3
PSYCH - pleasant 
INTEGUMENTARY - many scattered ecchymoses (most & largest on
BLEs); petechiae on BLEs

DISCHARGE PHYSICAL EXAM:
========================

VITALS: 98.3 PO 108 / 58 57 18 99 RA  
GENERAL - well-appearing, in no distress
EYES - anicteric, PERRL 
ENT - moist membranes, gingival hemorrhages have resolved 
completely
CARDIOVASC - regular, normal S1/S2, no murmur
RESPIRATORY - lungs clear bilaterally 
GI - soft, non-tender, non-distended
MUSCULOSKEL - warm extremities, no peripheral edema 
NEURO - face symmetric, tongue midline, speech fluent, oriented
x3
PSYCH - pleasant 
INTEGUMENTARY - many scattered ecchymoses (most & largest on
BLEs), improving compared with admission; petechiae on BLEs and 
LUE 

 
Pertinent Results:
ADMISSION LABS:
===============

___ 06:58PM BLOOD WBC-6.0 RBC-4.89 Hgb-13.4 Hct-39.1 
MCV-80* MCH-27.4 MCHC-34.3 RDW-12.3 RDWSD-35.4 Plt Ct-<5
___ 06:58PM BLOOD Neuts-64.4 ___ Monos-7.7 Eos-1.3 
Baso-0.5 Im ___ AbsNeut-3.86 AbsLymp-1.55 AbsMono-0.46 
AbsEos-0.08 AbsBaso-0.03
___ 04:56PM BLOOD ___ PTT-30.8 ___
___ 04:56PM BLOOD Glucose-88 UreaN-25* Creat-0.8 Na-142 
K-4.2 Cl-102 HCO3-26 AnGap-14
___ 04:56PM BLOOD ALT-8 AST-16 AlkPhos-66 TotBili-1.2
___ 04:56PM BLOOD Albumin-4.6

OTHER PERTINENT LABS:
=====================

___ 06:58PM BLOOD Plt Smr-RARE* Plt Ct-<5
___ 07:11AM BLOOD Plt Ct-<5*
___ 10:44AM BLOOD Plt Smr-RARE* Plt Ct-6*
___ 06:30AM BLOOD Plt Ct-10*

___ 06:05PM URINE Color-Yellow Appear-Clear Sp ___
___ 06:05PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-6.5 Leuks-TR*
___ 06:05PM URINE RBC-0 WBC-7* Bacteri-FEW* Yeast-NONE 
Epi-3
___ 04:25PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:25PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-8* pH-6.5 Leuks-NEG
___ 04:25PM URINE RBC-1 WBC-3 Bacteri-FEW* Yeast-NONE Epi-4

MICRO:
======

___ 6:05 pm URINE

   URINE CULTURE (Preliminary): 
      KLEBSIELLA PNEUMONIAE.    >100,000 CFU/mL. 
         test result performed by Microscan. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h.  Cefepime MIC OF <=2 MCG/ML,  SUSCEPTIBLE. 

         MEROPENEM MIC OF <=1 MCG/ML,  SUSCEPTIBLE. 
      GRAM NEGATIVE ROD #2.    10,000-100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=2 S
CEFEPIME--------------       S
CEFTAZIDIME-----------   <=2 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   <=1 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------       S
NITROFURANTOIN--------  <=32 S
PIPERACILLIN/TAZO-----   <=8 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=2 S

DISCHARGE LABS:
===============

___ 06:30AM BLOOD WBC-8.0 RBC-4.05 Hgb-11.2 Hct-31.7* 
MCV-78* MCH-27.7 MCHC-35.3 RDW-12.6 RDWSD-35.7 Plt Ct-10*
 
Brief Hospital Course:
___ with ITP admitted with platelet count of 2,000 and mild gum 
bleeding, as well as lower extremity bruising. No evidence of 
severe bleeding. She was started on dexamethasone 40 mg PO QD on 
___, and her platelet count improved to 10k and her gum 
bleeding stopped. She was also started on omeprazole for GI 
prophylaxis. Urine culture in the ED also returned with >100k 
pan-sensitive klebsiella; however, this was completely 
asymptomatic so was not treated. In discussion with ___ 
oncology, she was discharged home with close outpatient 
hematology follow-up. 

TRANSITIONAL ISSUES:
====================
- Patient with asymptomatic bacteriuria on this admission, with 
UCx growing 2 morphologies of GNRs (suggesting possible GI 
contamination). However, if she develops fever or any urinary 
symptoms, she should be treated for simple cystitis with 3 days 
of Nitrofurantoin or ciprofloxacin (would avoid TMP/SMX given 
thrombocytopenia).

___ is clinically stable for discharge today.  On the 
day of discharge, greater than 30 minutes were spent in the 
communication, planning, and coordination of the discharge plan. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirena (levonorgestrel) 20 mcg/24 hr ___ years) intrauterine 
ASDIR 
2. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Mirena (levonorgestrel) 20 mcg/24 hr ___ years) intrauterine 
ASDIR  
2.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Idiopathic thrombocytopenic purpura (ITP)
SECONDARY: Asymptomatic bacteriuria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was our pleasure caring for you at ___ 
___.  You were admitted to the hospital with bleeding 
from your gums and extremely low platelets (~2 thousand at ___ 
undetectable in our lab).  This is due to your immune 
thrombocytopenia, also called idiopathic thrombocytopenic 
purpura, or ITP.  We treated you with a course of steroids, and 
your gum bleeding stopped.  We also started you on a medication 
to block stomach acid, which you will take until your course of 
steroids is completed.  When you were feeling better and your 
platelets had risen to a safe range, you were discharged home.

You must go to ___ in ___ tomorrow to get your 
platelets checked.  At the time of discharge from the hospital, 
your platelet count had risen to 10, which is a level that is 
safe for you to be treated as an outpatient.  In discussion with 
Atrius oncology, you were discharged home with close follow-up.

Finally, we found a bacteria growing in your urine; however, 
because you were not having any symptoms, this most likely is 
not a urinary tract infection and does not require treatment.  
If you develop burning with urination, blood in urine, frequent 
urination, or any other problems with urination, you should 
contact your primary care physician.

Thank you for allowing us to participate in your care.  
 
Followup Instructions:
___